US07799918B2
Preparation of 5-methyl-5H-benzo[c][1,5]naphthyridin-6-one
3.94 g N-(2-chloro-pyridin-3-yl)-N-methyl-benzamide (16 mmol), 1.85 g tetrakis(triphenylphosphine) palladium (Pd(PPh3)4) (1.6 mmol), 8.48 g sodium carbonate (Na2CO3) (80 mmol), and 50 mL N,N-dimethyl acetamide (DMA) were added in a flask and reacted for 24 hr under nitrogen. After cooling to room temperature, the reaction was quenched by water. After filtration, concentration, and purification by column, 3.06 light yellow solid was obtained, with a yield of 91%.

reactant | N-(2-chloro-pyridin-3-yl)-N-methyl-benzamide | 16 mmol, 3.94 g | ClC1=NC=CC=C1N(C(C1=CC=CC=C1)=O)C | C13H11ClN2O
reactant | sodium carbonate | 80 mmol, 8.48 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine) palladium | 1.6 mmol, 1.85 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | N,N-dimethyl acetamide | 50 mL | CN(C(C)=O)C | C4H9NO
product | 5-methyl-5H-benzo[c][1,5]naphthyridin-6-one | yield of 91% | CN1C(C2=C(C3=NC=CC=C13)C=CC=C2)=O | C13H10N2O
